US07544835B2
Dimethyl 2-[3-({[(3-chloroanilino)carbonyl]oxy}-methyl)benzyl]malonate
Using dimethyl 2-[3-(hydroxymethyl)benzyl]malonate and 3-chlorophenylisocyanate, the title compound was obtained in the same manner as described in Example 192b).

reactant | dimethyl 2-[3-(hydroxymethyl)benzyl]malonate | OCC=1C=C(CC(C(=O)OC)C(=O)OC)C=CC1 | C13H16O5
reactant | 3-chlorophenylisocyanate | ClC=1C=C(C=CC1)N=C=O | C7H4ClNO
product | Dimethyl 2-[3-({[(3-chloroanilino)carbonyl]oxy}-methyl)benzyl]malonate | ClC=1C=C(NC(=O)OCC=2C=C(CC(C(=O)OC)C(=O)OC)C=CC2)C=CC1 | C20H20ClNO6
